US04575565
Preparation of 2-(4-Nitrophenyl)-1,3-Dithiolane
Following the general procedure employed in Example 1, 38.58 gm (0.255 moles) of 4-nitrobenzaldehyde and 24.71 gm (0.262 moles) of 1,2-ethanedithiol gave, after crystallization from absolute EtOH, 49.23 gm (0.2169 moles) of an orange colored solid (85% yield) m.p. 80°-82° C. Elemental analysis for C9H9NO2S2 :

reactant | 4-nitrobenzaldehyde | 0.255 moles, 38.58 gm | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 1,2-ethanedithiol | 0.262 moles, 24.71 gm | C(CS)S | C2H6S2
solvent | EtOH | CCO | C2H6O
product | 2-(4-Nitrophenyl)-1,3-Dithiolane | 0.2169 moles, 49.23 gm, 85% yield | [N+](=O)([O-])C1=CC=C(C=C1)C1SCCS1 | C9H9NO2S2
